US04006145
210.3 g of 3-nitro-6-(phenylthio)-phenylacetonitrile, 210 ml of water, 210 ml of concentrated sulphuric acid and 210 ml of acetic acid are heated to reflux for 20 hours. The mixture is cooled and extracted with ether. The organic phase is washed successively with water and aqueous sodium carbonate solution. The aqueous phase is made acid with hydrochloric acid and extracted with ethyl acetate. The organic phase is washed with water, dried over magnesium sulphate, evaporated under reduced pressure and the residue recrystallised from benzene. There is obtained 3-nitro-6 -phenylthio)-phenylacetic acid of melting point 138° - 140° C.

reactant | 3-nitro-6-(phenylthio)-phenylacetonitrile | 210.3 g | [N+](=O)([O-])C=1C=C(C(=CC1)SC1=CC=CC=C1)CC#N | C14H10N2O2S
reactant | water | 210 ml | O | H2O
reactant | sulphuric acid | 210 ml | S(O)(O)(=O)=O | H2O4S
solvent | acetic acid | 210 ml | C(C)(=O)O | C2H4O2
product | phenylacetic acid | C1(=CC=CC=C1)CC(=O)O | C8H8O2
